US07537765B2
3-O-(3′,3′-dimethylsuccinyl)dihydrobetulinic acid:
yield 24.5% (starting with 155.9 mg of dihydrobetulinic acid); crystallization from MeOH—H2O gave colorless needles; mp 291°-292° C.; [α]D20-13.4° (c=1.1, CHCl3—MeOH [1:1], 1H NMR (pyridine-d5): 0.85, 0.94 (each 3H, d, J=7.0 Hz; 20-(CH3)2), 0.75, 0.93, 0.97, 1.01, 1.03 (each 3H, s; 4-(CH3)2, 8-CH3, 10-CH3, 14-CH3), 1.55 (6H, s; 3′-CH3×2), 2.89, 2.97 (each 1H, d, J=15.5 Hz; H-2′), 4.77 (1H, dd, J=5.0, 11.0 Hz, H-3); Anal. Calcd for C36H58O6.5/2H2O: C 68.43, H 10.04; found C 68.64, H 9.78.

reactant | dihydrobetulinic acid | 155.9 mg | CC(C)[C@@H]1CC[C@]2(C1C3CCC4[C@]5(CC[C@@H](C(C5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)C(=O)O | C30H50O3
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 3-O-(3′,3′-dimethylsuccinyl)dihydrobetulinic acid | yield 24.5% | CC(C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)OC(=O)CC(C)(C)C(=O)O)C)C(=O)O | C36H58O6
